US04108805
60 parts of hexachlorocyclotriphosphazene were charged into a reactor together with 500 parts of tetrahydrofuran, and the mixture cooled at -78° C. The previously prepared sodium p-fluorophenoxide solution was added dropwise and reacted as in Example 1. The resultant product was worked up as in Example 1 to yield p-fluorophenoxypentachlorocyclotriphosphazene (b.p. 107° C at 0.02 Torr).

reactant | hexachlorocyclotriphosphazene | ClP1(=NP(=NP(=N1)(Cl)Cl)(Cl)Cl)Cl | Cl6N3P3
reactant | sodium p-fluorophenoxide | FC1=CC=C([O-])C=C1.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | p-fluorophenoxypentachlorocyclotriphosphazene | FC1=CC=C(OP2(=NP(=NP(=N2)(Cl)Cl)(Cl)Cl)Cl)C=C1 | C6H4Cl5FN3OP3
